US04252803
(i) [2-[5-(Aminocarbonyl)-1-butyl-1H-indol-3-yl]ethyl]carbamic acid, phenylmethyl ester
Following the method of Example 16(i), [2-[5-(aminocarbonyl)-1H-indol-3-yl]ethyl]carbamic acid, phenylmethyl ester (1.5 g), sodium hydride (0.16 g) and 1-bromobutane (1 ml) gave a pale brown oily solid (1.5 g). Chromatography on a silica column (Kieselgel 60, 60 g) eluted with chloroform containing 1% methanol gave the title compound (1.0 g) as a colourless crystalline solid m.p. 138°-9° (ethyl acetate).

reactant | [2-[5-(aminocarbonyl)-1H-indol-3-yl]ethyl]carbamic acid, phenylmethyl ester | 1.5 g | NC(=O)C=1C=C2C(=CNC2=CC1)CCNC(OCC1=CC=CC=C1)=O | C19H19N3O3
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | 1-bromobutane | 1 ml | BrCCCC | C4H9Br
product | [2-[5-(Aminocarbonyl)-1-butyl-1H-indol-3-yl]ethyl]carbamic acid, phenylmethyl ester | 1.5 g | NC(=O)C=1C=C2C(=CN(C2=CC1)CCCC)CCNC(OCC1=CC=CC=C1)=O | C23H27N3O3
